US08686002B2
3-(2,6-Dimethoxybenzyl)-6-fluoroquinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-5-fluorobenzaldehyde and 3-(2,6-dimethoxyphenyl)propionitrile.

reactant | 2-amino-5-fluorobenzaldehyde | NC1=C(C=O)C=C(C=C1)F | C7H6FNO
reactant | 3-(2,6-dimethoxyphenyl)propionitrile | COC1=C(C(=CC=C1)OC)CCC#N | C11H13NO2
product | 3-(2,6-Dimethoxybenzyl)-6-fluoroquinolin-2-amine | COC1=C(CC=2C(=NC3=CC=C(C=C3C2)F)N)C(=CC=C1)OC | C18H17FN2O2
